US07572915B2
3-Mercapto-N,N-dimethylbenzamide
Iodine (1 g) was added to a stirred solution of 3-[(dimethylamino)carbonylbenzenesulfonyl chloride (2 g) (Borthwick et al, J. Med. Chem 2002, 45(1), 1-18) and triphenylphosphine (8.4 g) in 1,4-dioxane at 0° C. The mixture was stirred for 0.5 h at ambient temperature. The mixture was poured into a sodium sulphite solution (50 ml), extracted into ethyl acetate (2×30 ml) and washed with 2N sodium hydroxide solution (2×40 ml). The alkaline extracts were acidified and re-extracted into dichloromethane (3×50 ml). The extracts were washed with water (100 ml), dried (Na2SO4) and evaporated to give the title compound as a colourless solid (1.1 g).

reactant | Iodine | 1 g | II | I2
reactant | (dimethylamino)carbonylbenzenesulfonyl chloride | 2 g | CN(C(=O)C1=C(C=CC=C1)S(=O)(=O)Cl)C | C9H10ClNO3S
reactant | triphenylphosphine | 8.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium sulphite | 50 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 3-Mercapto-N,N-dimethylbenzamide | 1.1 g | SC=1C=C(C(=O)N(C)C)C=CC1 | C9H11NOS
